US07442793B2
(2R)-[(benzyloxyformylamino)methyl]heptanoic acid
To a cold solution of (R)-3-Benzyloxyamino-2-pentylpropionic acid (1.03 g, 3.89 mmol) in HCO2H (19 mL) and dichloromethane (19 mL) at 0° C. was added acetic anhydride (3.9 mL, 41.2 mmol). The mixture was stirred at 0° C. for 3 hours. The volatiles were removed by evaporation under vacuum. Dichloromethane (50 mL) was added to it. It was washed with brine (50 mL×2), and dried over MgSO4. Filtration and evaporation under vacuum provided the title compound. 1H NMR (400 MHz, CHCl3) δ 8.07 (br s, 1H), 7.29 (m, 5H), 4.91-4.71 (m, 2H), 3.76 (m, 2H), 2.67 (m, 1H), 1.54 (m, 1H), 1.41(m, 1H), 1.20 (m, 6H), 0.80 (t, J=7.0 Hz, 3H). MH+294.

reactant | (R)-3-Benzyloxyamino-2-pentylpropionic acid | 3.89 mmol, 1.03 g | C(C1=CC=CC=C1)ONC[C@H](C(=O)O)CCCCC | C15H23NO3
reactant | acetic anhydride | 41.2 mmol, 3.9 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | HCO2H | 19 mL | C(=O)O | CH2O2
solvent | dichloromethane | 19 mL | ClCCl | CH2Cl2
product | (2R)-[(benzyloxyformylamino)methyl]heptanoic acid | C(C1=CC=CC=C1)OC(=O)NC[C@H](C(=O)O)CCCCC | C16H23NO4
